Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs ___ is a pleasant ___ with hx of anal ca s/p chemo
+XRT, CBD lesion with metastasis to liver, gallbladder 
presenting
with nausea and vomiting.  

The patient was recently admitted in ___ where biopsy results
of liver mass obtained on prior admission returned positive with 

metastatic squamous cell carcinoma, most likely from her known 
anal SCC primary. She was discussed at tumor board (oncology, 
surgical oncology, and radiology), she was determined not to be 
a surgical candidate given extent of disease. A percutaneous 
gallbladder drain was placed, and she was treated with 
ciprofloxacin and metronidazole. Her symptoms or abdominal pain
gradually  improved. Her bile grew out sparse growth of
clostridium  perfringens. Her plastic biliary stent was 
exchanged
for a metal one. Most recently she had gallbladder and CBD 
drains
placed 2 days ago at ___. PET/CT at ___ yesterday
shows and increased in size of mass.

Yesterday she presented to ___ with acute onset of
post-prandial nausea and vomiting yesterday without fevers or
abdominal pain. This started after her PET. She feels nauseous
regardless of whether she is trying to eat. She denies diarrhea,
shortness of breath or chest pain. ___ found increased total
bilirubin of 3.1 from 1.8 baseline and referred to ___ because
___ was on diversion.

The patient is also due to start chemotherapy but she is having
to have her port replaced.

In the ___ she was hemodynamically stable but found to have 
ALT
58, AST 53, Alk phos 655, and tBili 2.2. ___ was consulted, and
the resumed drainage from the CBD drain. Since then she has
started to feel better. The case was also discussed with ERCP 
who
do not feel ERCP is warranted at this time.

Cr was also elevated at 1.5. The PET at ___ notes
bilateral hydronephrosis, however, the patient states she has 
bee
urinary large amounts, especially since receiving fluids.
 
Past Medical History:
Anal cancer - tx'd w/ chemorads at ___, finished tx ___
Gout
 
Social History:
___
Family History:
Father with colon cancer diagnosed in his ___.
Mother with osteoporosis.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
Vitals:  Afebrile, VS stable, reviewed in ___
Constitutional: Alert, oriented, no acute distress
EYES: Sclera mildly icteric,  EOMI, PERRL
ENMT: MMM, oropharynx clear, normal hearing, normal nares
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes,
rales, rhonchi
GI: Soft, TTP in RUQ and mid epigastrium, non-distended, bowel
sounds present, no organomegaly, no rebound or guarding
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: CBD and GB drains in place without leakage. CBD draining
bilious fluid

DISCHARGE PHYSICAL EXAM:
VITALS: ___ 0809 Temp: 98.6 PO BP: 157/85 HR: 93 RR: 18 O2
sat: 94% O2 delivery: RA 
Constitutional: Alert, oriented, no acute distress
EYES: non-icteric,  EOMI, PERRL
ENMT: MMM, oropharynx clear, normal hearing, normal nares
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes,
rales, rhonchi, poor effort
GI: Soft, TTP in RUQ and mid epigastrium, non-distended, bowel
sounds present, no organomegaly, no rebound or guarding. biliary
drain in place with dark green drainage in bag.  Scant green 
leakage on
dressing.
EXT: Warm, well perfused, no CCE
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes. no jaundice
 
Pertinent Results:
ADMISSION LABS:
=============
___ 05:37AM BLOOD WBC-8.8 RBC-3.44* Hgb-10.2* Hct-31.5* 
MCV-92 MCH-29.7 MCHC-32.4 RDW-14.2 RDWSD-47.8* Plt ___
___ 07:35AM BLOOD ___ PTT-28.1 ___
___ 05:37AM BLOOD Glucose-75 UreaN-14 Creat-1.5* Na-140 
K-4.5 Cl-99 HCO3-22 AnGap-19*
___ 05:37AM BLOOD ALT-58* AST-53* AlkPhos-655* TotBili-2.1*
___ 05:37AM BLOOD Albumin-3.2* Calcium-8.7 Phos-4.9* Mg-1.9

IMAGING/STUDIES:
==============
___ KUB:

Nonspecific, nonobstructive bowel gas pattern.

MICRO:
===============

___ 9:30 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

DISCHARGE LABS:
====================

___ 06:55AM BLOOD WBC-7.0 RBC-3.44* Hgb-10.0* Hct-30.1* 
MCV-88 MCH-29.1 MCHC-33.2 RDW-13.6 RDWSD-43.5 Plt ___
___ 06:55AM BLOOD Glucose-87 UreaN-11 Creat-1.9* Na-139 
K-3.3* Cl-96 HCO3-29 AnGap-14
___ 06:55AM BLOOD ALT-27 AST-25 AlkPhos-379* TotBili-1.1
___ 06:55AM BLOOD Calcium-8.2* Phos-4.5 Mg-1.___ yoF with metastatic anal cancer, recent admission for 
perforated vs gangrenous cholecystitis s/p perc chose placement, 
and outpatient placement of PBTD now presenting with vomiting 
and elevated LFTs, improved with uncapping biliary drain. She 
was also found to have ___ and hospital course was complicated 
by spontaneous dislodgement of perc chole.

#Vomiting
#Transaminitis: 
#Biliary obstruction
Patient recently had internal/ext biliary drain placed at ___ as 
outpatient. Due to some confusion, it was capped as outpatient 
and pt subsequently had vomiting and was found to have elevated 
bilirubin consistent with biliary obstruction. Drain was 
uncapped at ___ ED with improvement in symptoms. Her LFTs 
trended down with uncapping of drain. Despite uncapping, the 
patient was noted to have drainage surrounding her PTBD 
suggesting the drain was displaced. She is currently awaiting 
cholangiogram/drain evaluation. She was tolerating a regular 
diet with minimal nausea prior to transfer.

#Recent cholecystitis
#GB drain dislodgment:
Patient with admission to ___ ___ and diagnosed with 
perforated vs gangrenous cholecystitis for which perc chole was 
placed. This dislodged as outpatient and was replaced at ___ on 
___. However during admission, this tube spontaneously dislodged 
again. The patient was monitored for signs of infection, 
worsening pain, fever, leukocytosis. As she remained stable, 
there percutaneous cholecystostomy was not performed. 

#Acute kidney injury:
#Hydronephrosis:
Pt was previously known to have L sided hydronephrosis, and is 
now found to have new ___ with bilateral hydronephrosis on 
recent outpatient PET scan. She was seen by urology during her 
admission and stent placement was recommended. Her creatinine 
slowly trended up and is 1.9 on discharge. The patient should be 
evaluated for internal stents vs. percutaneous nephrostomy 
tubes.

#Metastatic anal cancer: pt was previously treated with XRT and 
chemo for anal cancer however during recent admission to ___ 
was found to have metastatic disease to liver. Pt is followed at 
___ and is planning to restart chemo regimen shortly. She 
recently had a port placed which is not functioning correctly 
and is currently being evaluated for removal/replacement. She 
will be transferred to ___ for ongoing care

TRANSITIONAL ISSUES:
=================
[] Concern for malpositioned PTBD- Please consider ___ evaluation
[] Creatinine slowly increasing from 0.8 two weeks ago to 1.9 on 
transfer to ___. Concern for obstruction, consider urology vs. 
___ evaluation.
[] Code: Full
[]HCP: Husband- ___

Patient seen and examined on day of discharge >30 minutes on 
discharge activities.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Bisacodyl 10 mg PO DAILY:PRN Constipation  
3.  Docusate Sodium 100 mg PO BID:PRN constipation  
4.  Heparin 5000 UNIT SC BID  
5.  Ondansetron 4 mg IV Q8H:PRN n/v  
6.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate  
7.  Promethazine 25 mg PO Q6H:PRN Nausea  
8.  Psyllium Powder 1 PKT PO TID:PRN constipation  
9.  Ramelteon 8 mg PO QHS:PRN insomnia 
Should be given 30 minutes before bedtime  
10.  Senna 8.6 mg PO BID:PRN Constipation  
11.  Multivitamins 1 TAB PO DAILY  
12.  Omeprazole 20 mg PO DAILY  
13.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Metastatic anal cancer
Biliary obstruction
Acute kidney injury
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear ___, 

You were admitted to ___ with vomiting and elevated liver 
markers. This improved with uncapping your biliary drain. Your 
biliary drain was also found to have some leakage which may mean 
that it is not positioned well or blocked. We recommend that the 
interventional radiology team fix this drain. During your 
hospitalization, your gallbladder drain unfortunately fell out. 
You were monitored and given your abdominal pain was unchanged 
and you had no other signs or symptoms of infection, this drain 
was not replaced.

You were also found to have kidney damage which may be due to a 
blockage.  You will need to follow up with urology to determine 
if stents need to be placed.

You were transferred to ___ to continue your care.
We wish you the best.
 
Followup Instructions:
___